US03962255
Using the same conditions as in Example 7, 5.1 parts of 2,2,7,7 -tetramethyl-1,4-diazaheptan-5-one, 30 parts of isobutylchloroformate and 150 parts of anhydrous toluene afforded 4-isobutoxycarbonyl-2,2,7,7-tetramethyl-1,4-diazaheptan-5-one of boiling point 134°C at 0.8mm pressure. The hydrochloric acid salt of this material showed a melting point of 179° -181°C and gave the following elemental analysis by weight:

reactant | 2,2,7,7 -tetramethyl-1,4-diazaheptan-5-one | CC(N)(CNC(CC(C)C)=O)C | C9H20N2O
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-isobutoxycarbonyl-2,2,7,7-tetramethyl-1,4-diazaheptan-5-one | C(C(C)C)OC(=O)N(CC(N)(C)C)C(CC(C)C)=O | C14H28N2O3
